US08563735B2
methyl 4-fluoro-2-(phenylamino)benzoate
Methyl 2-bromo-4-fluorobenzoate (1.00 g), aniline (0.47 mL), palladium(II) acetate (0.048 g), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.214 g) and Cs2CO3 (2.08 g) in toluene (12 mL) were stirred at 90° C. for 24 hours. The reaction was concentrated and chromatographed on silica gel with 5-50% ethyl acetate/hexanes.

reactant | Methyl 2-bromo-4-fluorobenzoate | 1.00 g | BrC1=C(C(=O)OC)C=CC(=C1)F | C8H6BrFO2
reactant | aniline | 0.47 mL | NC1=CC=CC=C1 | C6H7N
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.214 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | Cs2CO3 | 2.08 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.048 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 4-fluoro-2-(phenylamino)benzoate | FC1=CC(=C(C(=O)OC)C=C1)NC1=CC=CC=C1 | C14H12FNO2
